Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8].[O:9][H:10]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:9][H:10],-6.5038225907500005
[C:3]#[C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10].[H:1][C:2]>>[H:1][C:2]=[C:3]=[C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10],-7.450241891880001
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:12]([H:13])([H:14])[H:15],4.77165299284
[C:1]=[C:2]([H:3])[H:4].[C:5][O:6][H:7]>>[C:1][C:2]([H:3])([H:4])[C:5][O:6][H:7],-0.48745688741
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.75561474865
[H:1][C:2]([H:3])=[C:4][O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.75570540057
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2][C:3],3.35071143181
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5],1.19607461344
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.83019409716
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:4][H:5],5.96364863543
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],4.3907509415
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9]>>[H:9].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8],2.41850204656
[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:1]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-4.261090182619999
[H:1][O:2][C@@:3]1([H:4])[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][H:7])[C:11]([C:8]([H:9])[H:10])([H:12])[H:13],0.92729920222
[C:4]([H:5])[O:6][C:7]([H:8])[H:9].[H:1][C:2]#[C:3][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]/[C:3](=[C:4](\[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.4142060980200002
[H:1]/[C:2]([C:3]=[C:4]([H:5])[H:6])=[C:8]\[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.10079557092
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:1][C:2]([H:3])=[O:4],0.72493951
[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.26072302198
[H:1][C:2][O:3][C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:5]>>[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.26633093534
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-3.83169234931
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],3.74509656181
[C:4]([H:5])([O:6][O:7][H:8])=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][O:7][H:8])[C:9]([H:10])[H:11],-2.62517913352
[C:6]([H:7])([H:8])=[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],0.723738133909
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-1.52580777489
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:10].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:11]/[C:12]([H:13])([H:14])[H:15],1.7903066771400002
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[O:1],8.07298738
[C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],-5.98747753988
[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-5.132010505209999
